US06437184B1
First, 8.64 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol, 4.98 g of potassium carbonate, 3.36 g of chloroacetone, and 50 ml of N,N-dimethylformamide were placed in a reaction vessel. After stirring at room temperature for 24 hours, the reaction mixture was filtered. The filtrate was poured into diluted hydrochloric acid, and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated, which afforded 10.12 g (yield, 98%) of (2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxyacetone, m.p., 83.8° C.

reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol | 8.64 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | potassium carbonate | 4.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 3.36 g | ClCC(C)=O | C3H5ClO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxyacetone | ClC1=C(OCC(C)=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C12H10Cl4O3
